US09102621B2
6-Cyclopropyl-5-(difluoromethoxy)pyridin-3-ol
Methanol (5 mL) was added to the crude 2-cyclopropyl-3-difluoromethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (Preparation 103, 450 mg, 1.5 mmol) and the resulting solution cooled to 0° C. with stirring. Hydrogen peroxide solution (35% in water, 0.70 mL) was added over 20 minutes. The reaction mixture was then allowed to warm to room temperature and stirred for 5 hours. The reaction was quenched by addition of 1M aqueous sodium thiosulfate solution (10 mL), and rapidly stirred for 15 minutes at room temperature. The mixture were evaporated in vacuo, and brine (50 mL) was added. The residue was extracted into ethyl acetate (3×50 mL) and the combined extracts were dried over magnesium sulfate, filtered and the solvent removed to leave a brown oil. The oil was purified by flash silica gel column chromatography eluting with EtOAc:heptane 1:1 to provide the title compound as a white solid (168 mg, 58% yield).

reactant | 2-cyclopropyl-3-difluoromethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.5 mmol, 450 mg | C1(CC1)C1=NC=C(C=C1OC(F)F)B1OC(C(O1)(C)C)(C)C | C15H20BF2NO3
reactant | Hydrogen peroxide | 0.70 mL | OO | H2O2
solvent | Methanol | 5 mL | CO | CH4O
product | 6-Cyclopropyl-5-(difluoromethoxy)pyridin-3-ol | 168 mg, 58% yield | C1(CC1)C1=C(C=C(C=N1)O)OC(F)F | C9H9F2NO2
